US04470986
A solution of 8-(4-methoxycarbonylbutyl)-imidazo[1,5-a]pyridine (30 mg) in 0.3 ml of ethanol and 0.3 ml of 1N sodium hydroxide is refluxed for 2 hours, cooled, diluted with 2 ml of water and extracted with ethyl acetate (1×5 ml). The aqueous phase is brought to pH=6 and is extracted with methylene chloride (4×10 ml). The extracts are dried and evaporated to yield 8-(4-carboxybutyl)imidazo[1,5-a]pyridine, melting at 195°-197°.

reactant | 8-(4-methoxycarbonylbutyl)-imidazo[1,5-a]pyridine | 30 mg | COC(=O)CCCCC=1C=2N(C=CC1)C=NC2 | C13H16N2O2
solvent | ethanol | 0.3 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1N, 0.3 ml | [OH-].[Na+]
solvent | water | 2 ml | O | H2O
product | 8-(4-carboxybutyl)imidazo[1,5-a]pyridine | C(=O)(O)CCCCC=1C=2N(C=CC1)C=NC2 | C12H14N2O2
